US04515727
A mixture of 376 mg of undecylmercaptan, 438 mg of methyl 7-bromohepta-4,5-dienoate and 0.278 ml of triethyl amine in 2 ml of diethyl ether were stirred at room temperature for 1 hour. The solvent was removed in vacuo and the residue chromatographed on silica gel eluting with hexane and toluene to give 210 mg of methyl 8-thianonadeca-4,5-dienoate having the following NMR spectrum which was run in deutochloroform solution with TMS as the internal standard.

reactant | undecylmercaptan | 376 mg | C(CCCCCCCCCC)S | C11H24S
reactant | methyl 7-bromohepta-4,5-dienoate | 438 mg | BrCC=C=CCCC(=O)OC | C8H11BrO2
reactant | triethyl amine | 0.278 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | methyl 8-thianonadeca-4,5-dienoate | 210 mg | C(CCC=C=CCSCCCCCCCCCCC)(=O)OC | C19H34O2S
